US06353017B1
A. Boc-Leu-Leu-NH2
Boc-Leu-Leu-OH (Bachem, 43.6 mmol) is dissolved in THF (250 ml) and N-methylmorpholine (43.6 mmol) is added. The mixture is cooled to −20° C. and isobutyl chloroformate (43.6 mmol) is added dropwise. The mixture is stirred for 10 min. and then a 25% aqueous solution of ammonia (52.3 mmol) is added at −20° C. The mixture is stirred for 3 hours at −20° C. to −10° C. After evaporation of the solvent, the residue is extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate and evaporated. The crude product is suspended in diethylether and the solid filtered of and dried (vacuum). 14.2 g of a white powder with mp. 155-156° C., Rf=0.5 (CH2Cl2/MeOH=9:1) is obtained.

reactant | Boc-Leu-Leu-OH | 43.6 mmol | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C17H32N2O5
reactant | N-methylmorpholine | 43.6 mmol | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 43.6 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 52.3 mmol | N | H3N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | Boc-Leu-Leu-NH2 | 14.2 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OC(C)(C)C | C17H33N3O4
